US05840751
5,6-Dihydro-4-hydroxy-6-[4-(phenylmethoxy)phenyl]-2H-pyran-2-one, (±)
The title compound was prepared as described in General Method 1 using 5.0 mL of methyl acetoacetate, 2.0 g of NaH 60% dispersion in oil, 25 mL of 2.0M n-butyl lithium in hexane, 12.0 g of 4-benzyloxybenzaldehyde and 150 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 15 minutes at 0° C. then allowed to warm to room temperature overnight. The crude product was triturated from diethyl ether to afford a solid (m.p. 165°-166° C). 1H NMR (CDCl3) δ 2.91 (dd, 2 H), 3.56 (dd, 2 H), 5.09 (s, 2 H), 5.65 (dd, 1 H), 6.98-7.04 (m, 2 H), 7.30-7.44 (m, 7 H).

reactant | methyl acetoacetate | 5.0 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 2.0 g | [H-].[Na+]
reactant | n-butyl lithium | 2.0M, 25 mL | C(CCC)[Li]
reactant | 4-benzyloxybenzaldehyde | 12.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4-hydroxy-6-[4-(phenylmethoxy)phenyl]-2H-pyran-2-one | OC1=CC(OC(C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C18H16O4
